Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
right elbow injury s/p snowboarding accident
 
Major Surgical or Invasive Procedure:
___:  ORIF Right radial head

 
History of Present Illness:
___ year old girl who fell into a ditch while snowboarding. Had 
immediate pain in right elbow.
 
Past Medical History:
none
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On discharge:

AVSS
NAD, A&O x3
CV: RRR
Resp: CTAB
Abd: soft, nt/nd
RUE: splint/sling in place c/d/i, brisk capillary refill, 
sensation intact to light touch m/r/u, intact FPL/EIP/IO limited 
by pain
 
Pertinent Results:
___ 11:55PM BLOOD WBC-8.3 RBC-4.08* Hgb-11.5* Hct-34.3* 
MCV-84 MCH-28.2 MCHC-33.5 RDW-13.7 Plt ___
___ 11:55PM BLOOD Neuts-76.1* Lymphs-17.6* Monos-5.2 
Eos-0.7 Baso-0.4
___ 11:55PM BLOOD ___ PTT-27.5 ___
___ 11:55PM BLOOD Glucose-115* UreaN-11 Creat-0.6 Na-139 
K-3.9 Cl-104 HCO3-24 AnGap-15

___ Right elbow x ray: 
IMPRESSION: Radial head fracture, coronoid process fracture, 
joint effusion.

___ CT right uppper extremity (Wetread):
Communited impacted fracture of the radial head with 
intraarticular extension and a 12 x 5mm free ossific fragment 
along the posterior aspect of the radial head that represents a 
bony fracture fragment. Associated vertical fracture of the 
coranoid process of the ulna with superior displacement of the 
free distal fragment. Associated joint effusion. 

 
Brief Hospital Course:
Ms. ___ presented to the Emergency Department complaining 
of a right elbow injury. She was evaluated by the Orthopaedics 
department and found to have a right radial head and coronoid 
fractures. She was admitted, consented, and medically cleared 
for surgery. On ___, she was prepped and brought to the 
operating room. Intra-operatively, she was closely monitored and 
remained hemodynamically stable. She tolerated the procedure 
well without any complication. Post-operatively, she was 
transferred to the PACU and floor for further recovery. On the 
floor, she remained hemodynamically stable with her pain 
controlled. She was discharged in stable condition. 
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
3. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right radial head fracture

 
Discharge Condition:
Stable

 
Discharge Instructions:
Do not bear weight through your right arm and keep your sling on 
when out of bed.

Take your pain medication as prescribed.

Keep your arm clean and dry

Do not drive or operate machinery on pain medication
 
Followup Instructions:
___